US09301951B2
Intermediate 1.1d: 1-(3-bromo-4-nitrophenyl)piperidine
Into a 1000-mL round-bottom flask, was placed a solution of 2-bromo-4-fluoro-1-nitrobenzene (30 g, 137.61 mmol, 1.00 equiv) in N,N-dimethylformamide (450 mL), piperidine (13.974 g, 162.68 mmol, 1.20 equiv), and potassium carbonate (56.718 g, 411.00 mmol, 2.99 equiv). The resulting solution was stirred overnight at 75° C. in an oil bath. The solids were filtered out. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 300 mL of dichloromethane. The resulting mixture was washed with 2×100 mL of water and 2×100 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:50). This resulted in 19 g (49%) of 1-(3-bromo-4-nitrophenyl)piperidine as a yellow solid.

reactant | 2-bromo-4-fluoro-1-nitrobenzene | 137.61 mmol, 30 g, 1.00 equiv | BrC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | piperidine | 162.68 mmol, 13.974 g, 1.20 equiv | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 411.00 mmol, 56.718 g, 2.99 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 450 mL | CN(C=O)C | C3H7NO
product | 1-(3-bromo-4-nitrophenyl)piperidine | BrC=1C=C(C=CC1[N+](=O)[O-])N1CCCCC1 | C11H13BrN2O2
